US07605118B2
At 35° C., a solution of lithium acetylide-ethylene diamine (50 g, 0.49 mol) in THF (500 ml) was slowly treated (reaction temperature≦35° C.) with a solution of cyclooctanone (51.4 g, 0.41 mol) in THF (100 ml). The resulting mixture was stirred for 4 h at 20° C., 15 h at 45° C., cooled to 5° C., treated with aqueous sat. NH4Cl solution (250 ml) and washed with 3M aqueous HCl. After extraction with Et2O, the organic phases were washed with water, aqueous sat. Na2CO3 solution, dried (Na2SO4), and concentrated to give 1-ethynylcyclooctanol (66.6 g). A solution of crude 1-ethynylcyclooctanol (65 g) in formic acid (130 ml) was heated for 2.5 h at 80° C. The resulting mixture was taken up in Et2O and washed successively with water, 5M NaOH, water, aqueous sat. NH4Cl solution, dried (Na2SO4), and concentrated to give 56 g of crude product. A fraction (8 g) was purified by flash chromatography (hexane/Et2O 95:5→9:1) to give 4.1 g of 1-cyclooct-2-enylethanone.

reactant | lithium acetylide ethylene diamine | 0.49 mol, 50 g | [C-]#[C-].[Li+].[Li+].C(CN)N
reactant | cyclooctanone | 0.41 mol, 51.4 g | C1(CCCCCCC1)=O | C8H14O
reactant | NH4Cl | 250 ml | [NH4+].[Cl-]
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-ethynylcyclooctanol | 66.6 g | C(#C)C1(CCCCCCC1)O | C10H16O
